US04814346
7-Hydroxy-8-methyl-3-(4-methylphenyl)-4H-1-benzopyran-4-one (400 mg) in a mixture of dioxane and ethanol 1:1 (200 ml) is hydrogenated for 64 h at room temperature over palladium 10% on active charcoal (100 mg) in the presence of p-toluenesulfonic acid monohydrate (120 mg). After filtration of the catalyst, the filtrate is evaporated under reduced pressure to a volume of about 50 ml. Water (150 ml) is added and the solution is extracted with dichloromethane (3×100 ml). The combined organic solutions are washed with water, dried and evaporated. The product is dried in vacuo to constant weight to yield 3,4-dihydro-7-hydroxy-8-methyl-3-(4-methylphenyl)-2H-1-benzopyran, m.p. 136°-137°.

reactant | 7-Hydroxy-8-methyl-3-(4-methylphenyl)-4H-1-benzopyran-4-one | 400 mg | OC1=C(C2=C(C(C(=CO2)C2=CC=C(C=C2)C)=O)C=C1)C | C17H14O3
reactant | charcoal | 100 mg | C | CH4
reactant | p-toluenesulfonic acid monohydrate | 120 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 3,4-dihydro-7-hydroxy-8-methyl-3-(4-methylphenyl)-2H-1-benzopyran | OC1=C(C2=C(CC(CO2)C2=CC=C(C=C2)C)C=C1)C | C17H18O2
